US05750550
A solution of 2-(pivaloyloxymethyl)-4-isopropyl-6-methoxy-1,2-benzisothiazol-3(2H)-one 1,1-dioxide (1.33 kg, 3.62 mol), 48% HBr in acetic acid (1 L) and 3 L of acetic acid was stirred on a steam bath (90°-95° C.) for 1.5 hours. The solvent (acetic acid) was removed under vacuum to give a thick slurry of an off-white residue which was diluted with 10 L of cold water and stirred for 30 minutes. The crude product was collected by filtration, washed first with 6 L of water and then with 3 L of saturated sodium bicarbonate solution. The crude solid was dried at 60°-70° C. for 20 hours and then was recrystallized from a mixture of 5 L of ethyl acetate and 6 L of hexane. Two crops were collected to give 1.16 kg (92%) of 2-bromomethyl-4-isopropyl-6-methoxy-1,2-benzisothiazol-3(2H)-one 1,1-dioxide, as an off-white solid, m.p. 157°-159° C.

reactant | 2-(pivaloyloxymethyl)-4-isopropyl-6-methoxy-1,2-benzisothiazol-3(2H)-one 1,1-dioxide | 3.62 mol, 1.33 kg | C(C(C)(C)C)(=O)OCN1S(C2=C(C1=O)C(=CC(=C2)OC)C(C)C)(=O)=O | C17H23NO6S
reactant | HBr | Br | BrH
solvent | acetic acid | 1 L | C(C)(=O)O | C2H4O2
solvent | acetic acid | 3 L | C(C)(=O)O | C2H4O2
solvent | water | 10 L | O | H2O
product | 2-bromomethyl-4-isopropyl-6-methoxy-1,2-benzisothiazol-3(2H)-one 1,1-dioxide | 1.16 kg, 92% | BrCN1S(C2=C(C1=O)C(=CC(=C2)OC)C(C)C)(=O)=O | C12H14BrNO4S
